US08034819B2
5-[2-(Methylthio)ethoxy]pyrazine-2-amine
(50% oily substance) (314 mg) was added to methylthioethanol (7.88 mL) under stirring with ice cooling, and then copper (490 mg) and 2-amino-5-bromopyrazine (1.00 g) were added to the resulting mixture. The reaction mixture was placed in an autoclave, and then heated and stirred for about 5 hours at 160° C. After cooling, to the reaction mixture water (50 mL) and ethyl acetate (50 mL) were added to dilute the mixture. Then, the mixture was turned into a basic solution by adding 25% ammonia water (2 mL). The reaction mixture was filtered with Celite and then separated into an organic layer and an aqueous layer. The aqueous layer was extracted with ethyl acetate (50 mL×2). The organic layers were combined, and was dried over anhydrous sodium sulfate, then filtered, and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane:ethyl acetate=1:1), then by preparative TLC (chloroform:methanol=10:1, followed by NH silica gel, hexane:acetone=3:1), to obtain 59.2 mg of the title compound (yield 6%) as white powdery crystals.

reactant | methylthioethanol | 7.88 mL | CSC(C)O | C3H8OS
reactant | 2-amino-5-bromopyrazine | 1.00 g | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | water | 50 mL | O | H2O
reactant | ammonia water | 2 mL | O.N
catalyst | copper | 490 mg | [Cu] | Cu
solvent | acetone | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-[2-(Methylthio)ethoxy]pyrazine-2-amine | 59.2 mg, yield 6% | CSCCOC=1N=CC(=NC1)N | C7H11N3OS
